* source EXERSICES
R_R1         N01447 N01203  10k TC=0,0 
R_R2         0 N01203  2.2k TC=0,0 
R_R3         0 N01203  10k TC=0,0 
Q_Q1         N013141 N01203 N01322 BC238BP/ZTX 
R_R4         N01608 N01322  15k TC=0,0 
Q_Q2         N01322 N01534 N013832 BC238BP/ZTX 
R_R5         N013141 N01447  10k TC=0,0 
R_R6         N013832 N01447  10k TC=0,0 
R_R7         N01534 N01447  10k TC=0,0 
R_R8         0 N01534  1k TC=0,0 
V_V1         N01447 N01608 15Vdc
